US09428456B2
[4-(4-Cyclopentylcarbamoyl-piperidin-1-ylmethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester
The title compound is prepared according to the reactions described above starting from (4-formyl-thiazol-2-yl)-carbamic acid tert-butyl ester and piperidine-4-carboxylic acid cyclopentylamide J-4 yielding after reductive amination [4-(4-cyclopentylcarbamoyl-piperidin-1-ylmethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester; LC-MS A: tR=0.66 min; [M+H]+=409.13.

reactant | (4-formyl-thiazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC=C(N1)C=O)=O | C9H12N2O3S
reactant | piperidine-4-carboxylic acid cyclopentylamide | C1(CCCC1)NC(=O)C1CCNCC1 | C11H20N2O
product | [4-(4-cyclopentylcarbamoyl-piperidin-1-ylmethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC=C(N1)CN1CCC(CC1)C(NC1CCCC1)=O)=O | C20H32N4O3S
